US05185346
A mixture of 3.2 parts of intermediate 2, namely α-phenyl-7-quinolinemethanol, 8 parts of thionyl chloride and 65 parts of dichloromethane was stirred for 4 hours at room temperature. The reaction mixture was evaporated and the residue was poured into water. The product was extracted with dichloromethane (3×39 parts) and the combined extracts were dried, filtered and evaporated, yielding 3.4 parts (98.5%) of 7-(chlorophenylmethyl)quinoline (interm. 23). In a similar manner there were also prepared the intermediates listed in Table 2.

reactant | α-phenyl-7-quinolinemethanol | C1(=CC=CC=C1)C(O)C1=CC=C2C=CC=NC2=C1 | C16H13NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-(chlorophenylmethyl)quinoline | 98.5% | ClC(C1=CC=C2C=CC=NC2=C1)C1=CC=CC=C1 | C16H12ClN
